US06107329
5-Chloro-1H-indole-2-carboxylic acid [(1 R)-(4-fluoro-benzyl)-2-(4-hydroxy-piperidin-1-yl)-2-oxo-ethyl]-amide
(R)-2-Amino-3-(4-fluoro-phenyl)-1-(4-hydroxy-piperidin-1-yl)-propan-1-one hydrochloride (0.6 mmol) and 5-chloro-1H-indole-2-carboxylic acid (0.6 mmol) were coupled according to Procedure A and the crude product purified by chromatography on silica gel eluted with 50, 75 and 100% ethyl acetate in hexanes. Yield 171 mg, 765%; HPLC (60/40) 4.23 minutes (97%); MS 444/446 (MH+, 100%); TSPMS 444/446 (MH+, 100%);

reactant | (R)-2-Amino-3-(4-fluoro-phenyl)-1-(4-hydroxy-piperidin-1-yl)-propan-1-one hydrochloride | 0.6 mmol | Cl.N[C@@H](C(=O)N1CCC(CC1)O)CC1=CC=C(C=C1)F
reactant | 5-chloro-1H-indole-2-carboxylic acid | 0.6 mmol | ClC=1C=C2C=C(NC2=CC1)C(=O)O | C9H6ClNO2
product | 5-Chloro-1H-indole-2-carboxylic acid [(1 R)-(4-fluoro-benzyl)-2-(4-hydroxy-piperidin-1-yl)-2-oxo-ethyl]-amide | FC1=CC=C(C[C@H](C(=O)N2CCC(CC2)O)NC(=O)C=2NC3=CC=C(C=C3C2)Cl)C=C1 | C23H23ClFN3O3
